US06815447B2
N-[2-(4-Cyclohexylphenyl)-4-methoxy-quinolin-6-yl]-acetamide
N-[2-(4-Cyclohexylphenyl)-4-hydroxy-quinolin-6-yl]-acetamide 35.7 g (0.099 moles) was placed in a 500 mL three neck round bottom flask equipped with a condenser, magnetic stirrer and nitrogen inlet with 250 mL of toluene. The material was suspended by stirring and 20.6 mL (0.21 moles) of dimethyl sulfate was added. The suspension was then heated with a silicone oil heating bath, to gentle reflux for 18 hr. After thwas time the reaction was allowed to cool and hexane was added. Solids were collected by vacuum filtration and washed with hexane. After drying, the solids were suspended in a 2 L Erlenmeyer flask with 1 L of 5% sodium hydroxide solution. The suspension was vigorously stirred and heated to 70° C. for 30 min. This converted the salt form of the material to the free base and removed some impurities. After cooling the solids were collected by vacuum filtration and washed with water. The product was dried in a vacuum oven to give 35.8 g (96%) of material, which contained about 30% of side products, with the N-methylated material constituting the major impurity. The material was used without further purification.

reactant | N-[2-(4-Cyclohexylphenyl)-4-hydroxy-quinolin-6-yl]-acetamide | 0.099 moles, 35.7 g | C1(CCCCC1)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(=C1)O)NC(C)=O | C23H24N2O2
reactant | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
reactant | dimethyl sulfate | 0.21 moles, 20.6 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | hexane | CCCCCC | C6H14
product | N-[2-(4-Cyclohexylphenyl)-4-methoxy-quinolin-6-yl]-acetamide | 35.8 g, 96% | C1(CCCCC1)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(=C1)OC)NC(C)=O | C24H26N2O2
